US05571813
Preparation of 7-[N-(2'-Cyanobiphenyl-4-yl)methyl-N-propylamino]-5-methylpyrazolo[1,5-a]pyrimidine
2.5 g (10.0 mmol) of N-(2'-cyanobiphenyl-4-yl)methyl-N-propyl amine (prepared from n-propylamine and 4-bromomethyl-2'-cyanobiphenyl by the method described in EP 490 820) and 1.8 g (10.7 mmol) 7-chloro-5-methylpyrazolo[1,5-a]pyrimidine (prepared according to Y. Makisumi, Chem. Pharm. Bull. 1962, 10, 620) were heated with reflux in 20 ml dry ethanol for 4 h. The mixture was concentrated to halve of the volume in vacuo and cooled with ice, while the remaining starting amine crystallized. It was filtered with suction, and the rest of the solvent was removed. The title compound was obtained from the residue after column chromatography (silica gel, acetone/hexane 1:9 and 2:3) as a yellow oil.

reactant | N-(2'-cyanobiphenyl-4-yl)methyl-N-propyl amine | 10.0 mmol, 2.5 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNCCC | C17H18N2
reactant | n-propylamine | C(CC)N | C3H9N
reactant | 4-bromomethyl-2'-cyanobiphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
reactant | 7-chloro-5-methylpyrazolo[1,5-a]pyrimidine | 10.7 mmol, 1.8 g | ClC1=CC(=NC=2N1N=CC2)C | C7H6ClN3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-[N-(2'-Cyanobiphenyl-4-yl)methyl-N-propylamino]-5-methylpyrazolo[1,5-a]pyrimidine | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN(CCC)C1=CC(=NC=2N1N=CC2)C | C24H23N5
